US07601734B2
Synthesis of bis(4-fluorophenyl)methanol
4-Fluorobromobenzene (19.26 g) in tetrahydrofuran (280 ml) was cooled to −78° C. and n-butyllithium (2.66 M n-hexane solution; 42 ml) was added thereto dropwise over 10 minutes or more while agitating. The reaction mixture was agitated for 1 hour while keeping the temperature. Then, 4-fluorobenzaldehyde (12.42 g) was added thereto dropwise over 10 minutes or more while agitating. The reaction mixture was agitated for 2 hours while keeping the temperature. Subsequently, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then brought to room temperature. The tetrahydrofuran was removed under reduced pressure, and the resultant residue was extracted with ethyl acetate. The organic layer washed with brine, dried with sodium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography to thereby obtain the subject compound (8.28 g).

reactant | 4-Fluorobromobenzene | 19.26 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | n-butyllithium | 2.66 M, 42 ml | C(CCC)[Li]
reactant | 4-fluorobenzaldehyde | 12.42 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | bis(4-fluorophenyl)methanol | 8.28 g | FC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)F | C13H10F2O
